US06555539B2
5-Amino-1H-indazole (15.41 g, 116 mmol) was suspended in a mixture of water (250 mL), ice (250 mL), and concentrated HCl (100 mL). The mixture was cooled in an ice-salt bath to an internal temperature of −5° C. To this mixture, was added a solution of sodium nitrite (8.78 g, 127 mmol) in water (75 mL), which had been cooled to 0° C. The resulting diazonium solution was stirred for 15 minutes at −5° C. A solution of copper (I) chloride (14.9 g, 151 mmol) in concentrated HCl (150 mL) was cooled to 0° C. and then added to the diazonium solution dropwise, causing an orange precipitate to form. The cooling bath was removed to allow the reaction to warm to room temperature. Gas evolution began at 10° C. internal temperature. After stirring at room temperature for 1.5 hours, the gas evolution subsided. The flask was then heated to 60° C. for 30 minutes, then cooled to ˜15° C. A brown precipitate formed. The precipitate was collected by suction filtration and dried in a vacuum dessicator over NaOH for 16 hours to give crude 5-chloro-1H-indazole (25.6 g) as a tan powder.

reactant | 5-Amino-1H-indazole | 116 mmol, 15.41 g | NC=1C=C2C=NNC2=CC1 | C7H7N3
reactant | sodium nitrite | 127 mmol, 8.78 g | N(=O)[O-].[Na+]
reactant | HCl | 150 mL | Cl | ClH
reactant | HCl | 100 mL | Cl | ClH
solvent | water | 250 mL | O | H2O
solvent | water | 75 mL | O | H2O
catalyst | copper (I) chloride | 151 mmol, 14.9 g | [Cu]Cl
product | 5-chloro-1H-indazole | 25.6 g | ClC=1C=C2C=NNC2=CC1 | C7H5ClN2
